Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
PCP:
Name: ___. 
Address: ___, ___ 
Phone: ___ 
Fax: ___ 

___ with poorly differentiated adenocarcinoma of the distal 
esophagus (T3, N1, M0) status post stenting and possible 
alcohol-related liver disease, recently hospitalized for 
initiation of chemo (cisplatin, fluorouracil), and radiation, 
presents with fever, chest pain, dyspnea, and cough.  Symptoms 
began a few days ago since discharge.  He reports clear sputum.  
His pain is midsternal, tighness, and pleuritic.  He denies 
radiation to arm, numbness, abd pain.  He has been undergoing 
radiation and not tolerating well.  He reports his companion had 
a "cold" recently.  He also reports anorexia and n/v with food.  
He denies diarrhea, bloody/black stool, or dysuria.

In the ED, he was found to have asymmetric BP in arms (lower on 
left).  CXR negative, but CTA chest suggestive of bilateral PNA, 
as well as left subclavian stenosis/occlusion.  He was given 
Vanco/Cefepime/Flagyl and vascular surgery was consulted.

10 point review of systems otherwise negative
 
Past Medical History:
PAST ONCOLOGIC HISTORY:  
Poorly differentiated adenocarcinoma of the distal esophagus 
(T3, N1, M0) status post stenting
Chemo/XRT initiated ___:
(cisplatin day 1/fluorouracil days ___, 28-day 
cycle) and radiation (50.4 Gy in 28 fractions over 5.5 weeks)

PAST MEDICAL HISTORY:  
Probable alcohol-related liver disease (patient denies)
Gastric ulcer
Chronic left knee injury

 
Social History:
___
Family History:
Father died at ___ years old of a CVA. Mother died at ___ years 
old of a pulmonary embolism.

 
Physical Exam:
T 97.1, HR 71, BP 156/49R 96/67L, RR 22, 100%RA
cachectic, tired appearing in NAD
anicteric sclera, MMM, OP clear, PERRL
supple, thin neck, no LAD
RRR nl S12, no mrg.  diminshed radial pulse L arm
Bibasilar crackles with triggered coughing, scattered wheeze.  
symmetric
abd soft with upper abd tenderness to palpation, +BS no rebound
Ext warm, with venous stasis change and varicosities.  clean 
based L plantar ulcer without drainage
Back without lesions or midline tenderness
no rashes or bruising
alert and oriented.  CN II-XII intact
 
Pertinent Results:
___ 11:00AM URINE  HOURS-RANDOM
___ 11:00AM URINE  UHOLD-HOLD
___ 11:00AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 11:00AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-70 KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 08:54AM   LACTATE-2.0
___ 08:40AM   GLUCOSE-101* UREA N-7 CREAT-0.7 SODIUM-135 
POTASSIUM-3.1* CHLORIDE-98 TOTAL CO2-24 ANION GAP-16
___ 08:40AM   estGFR-Using this
___ 08:40AM   ALT(SGPT)-10 AST(SGOT)-18 ALK PHOS-106 TOT 
BILI-1.0
___ 08:40AM   cTropnT-<0.01
___ 08:40AM   ALBUMIN-3.1* CALCIUM-8.4 PHOSPHATE-2.1* 
MAGNESIUM-1.7
___ 08:40AM   WBC-2.8* RBC-3.41* HGB-12.7* HCT-34.6* 
MCV-102* MCH-37.1* MCHC-36.5* RDW-14.5
___ 08:40AM   NEUTS-23* BANDS-6* ___ MONOS-37* EOS-0 
BASOS-0 ATYPS-3* ___ MYELOS-0
___ 08:40AM   HYPOCHROM-NORMAL ANISOCYT-1+ POIKILOCY-NORMAL 
MACROCYT-2+ MICROCYT-NORMAL POLYCHROM-NORMAL
___ 08:40AM   PLT SMR-NORMAL PLT COUNT-256#
___ 08:40AM   ___ PTT-27.4 ___

Blood/Urine cx: NGTD

CXR:
FINDINGS: 
The lungs are well expanded, without focal opacities.  
Cardiomediastinal and hilar contours are unremarkable. There is 
no pleural effusion or pneumothorax. Interval removal of right 
sided PICC. Known esophageal stent barely seen. 
  
IMPRESSION: No evidence of pneumonia. 

CTA CHEST:
1. Complete occlusion of the left subclavian artery by a large 
calcified 
atherosclerotic plaque at its origin is incompletely evaluated 
in this exam but raises concern for subclavian steal syndrome. 
Evaluation of differential upper extremity blood pressure should 
be performed. Dense calcification was also seen at the level of 
occlusion in the non enhanced chest CT from ___, 
suggesting chronicity. 
2. No evidence of pulmonary embolism or acute aortic syndrome. 
3. No esophageal extravasation of contrast or penumomediastinum 
identified.  However, this supine study is limited for 
assessment of esophageal perforation and an upper GI study 
should be performed if there is further clinical concern. 
4. Bibasilar ground-glass opacities with nodular components, 
more prominent in the right base, are slightly worsened than in 
the previous exam. Given short term progression this likely 
represents infection versus aspiration.  However, continued 
follow up after treatment is recommended to assess for 
resolution of nodular component in this patient with history of 
esophageal cancer. 

Carotid US:
IMPRESSION:  Diffuse distal common carotid and carotid 
bifurcation plaque with no significant stenosis.  Reversal of 
flow is seen in the left vertebral artery consistent with a 
known subclavian occlusion. 

FOOT X RAY:
THREE VIEWS, LEFT FOOT: 
There is an ulceration measuring approximately 2.2 cm on the 
plantar aspect of the left foot at the level of the 
tarsometatarsal joints.  There is a somewhat chronic-appearing 
erosion at the base of the first metatarsal medially.  If this 
corresponds to the site of the ulcer, this could reflect 
osteomyelitis.  Otherwise, this represents a nonspecific erosion 
which could be seen in the setting of an inflammatory 
arthropathy or gout.  There are mild degenerative changes of the 
left foot.  A moderate-sized plantar calcaneal spur is noted. 

Blood, Urine cx, Legionella: Negative
 
Brief Hospital Course:
___ with esophageal carcinoma recently hospitalized and started 
on chemo/XRT, now neutropenic, presents with fever, cough, 
dyspnea, and chest pain, CT findings suggestive of PNA as well 
as incidental left subclavian artery occlusion/stenosis, new 
atrial fibrillation, and chronic foot ulcer.

Presumed infectious/bacterial PNA: Based on new symptoms of 
cough, fever, dyspnea, and chest pain.  Neutropenic so high risk 
for bacterial infection, and also high risk for resistance given 
recent prolonged hospitalization.  Was initially given 
Vanco/Cefepime/Levofloxacin with rapid improvement.  He was then 
weaned to Levofloxacin alone with continued benefit.  Cultures 
were negative.  He was discharged to complete a full course with 
Levofloxacin.

Subclavian artery stenosis/occlusion: Asymptomatic but clear BP 
difference on exam.  Findings suggest chronicity.  Diminished 
radial pulse.  Carotid/Vertebral ultrasound demonstrated 
expected reversal of flow.  Vascular surgery was consulted and 
felt he had subclavian steal, but no syndrome given he was 
asymptomatic.  They recommended 3 month follow up.

Neutropenia: Likely chemo induced.  Counts improved prior to 
discharge

Esophageal carcinoma: Poorly differentiated.  s/p stenting, 
chemo, xrt.  XRT was continued in house and will continue as 
outpatient.  Appointment with Dr. ___ was to be rescheduled.

New Atrial Fibrillation: Noted on admission EKG.  Asymptomatic 
and controlled.  CHADS2 = 0.  This was discussed with patient.  
Aspirin 81mg daily was initiated on discharge.

Chronic foot ulcer: Wound care and podiatry were consulted.  
Xray was performed showing erosion but no clear osteomyelitis.  
Podiatry recommended WTD dressings daily, CAM boot, and close 
follow up

PUD: PPI continued

Code: FULL, confirmed

 
Medications on Admission:
Omeprazole 20 mg PO BID 
Sucralfate 2 gm PO BID 
Ondansetron 8 mg PO Q8H:PRN nausea 
Prochlorperazine 10 mg PO Q6H:PRN nausea 
Alleve prn, last dose yesterday
 
Discharge Medications:
1. Levofloxacin 750 mg PO DAILY Duration: 5 Doses 
RX *levofloxacin 750 mg 1 tablet(s) by mouth once a day Disp #*2 
Tablet Refills:*0
2. Neutra-Phos 1 PKT PO DAILY 
RX *potassium & sodium phosphates [Phos-NaK] 280 mg-160 mg-250 
mg 1 powder(s) by mouth once a day Disp #*30 Packet Refills:*0
3. Omeprazole 20 mg PO BID 
4. Ondansetron 8 mg PO Q8H:PRN nausea 
5. Prochlorperazine 10 mg PO Q6H:PRN nausea 
6. Sucralfate 1 gm PO BID 
do not take with antibiotic 
7. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet,chewable(s) by mouth once a day Disp 
#*90 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Bacterial Pneumonia
Neutropenia
Atrial fibrillation, new
Esophageal cancer
Left subclavian artery occlusion, chronic
Left foot ulcer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with fever, cough, shortness of breath.  You 
were diagnosed with a pneumonia.  With antibiotics your symptoms 
improved.  You will need to complete a full course of therapy.  
In addition, your blood counts were found to be recovering from 
your recent chemotherapy.  You will need to follow up with Dr. 
___ continue your radiation treatments.

Additionally, you were found to have an old occlusion of your 
left subclavian artery.  Please follow up with vascular surgery 
to monitor this.  Also, please wear your CAM boot to protect 
your ulcer, and see a Podiatrist.

Finally, you were also found to have atrial fibrillation, a 
heart rhythm which can increase your risk of stroke.  Given your 
risk factors, you will be started on a daily aspirin.
 
Followup Instructions:
___